US20010056188A1
Synthesis of 3-(Benzo[1,3]dioxol-5-ylamino)-3-cyclobutylamino-2-(4-chlorophenylsulfonyl)-propenenitrile
3-(Benzo[1,3]dioxol-5-ylamino-2-(4-chloro-phenylsulfonyl)-3-methylsulfanyl-2-propenenitrile (0.29 g, 0.7 mmol) was stirred in cyclobutylamine (0.6 ml 7.0 mmol) for 17 h at 100° C. under nitrogen in a sealed flask. The reaction mixture was concentrated and the residue was crystallised from ethyl acetate to give 88 mg (29%) of the title compound. Mp 189.50C. 1H NMR (200 MHz, CDCl3): δ=1.6 (m, 2H), 1.75 (m, 2H), 2.05 (m, 2H), 3.80 (m, 1H), 6.02 (s, 2H), 6.5 (m, 2H), 6.79 (d, 2H), 7.50 (dt, 2H), 7.83 (dt, 2H). Analysis: calc. for C20H18CIN3O4S: C55.62%, H 4.20%, N 9.73%; Found: C55.59%, H 4.21%, N 9.59%.

reactant | Benzo[1,3]dioxol-5-ylamino-2-(4-chloro-phenylsulfonyl)-3-methylsulfanyl-2-propenenitrile | 0.7 mmol, 0.29 g | O1COC2=C1C=CC(=C2)NC(=C(C#N)S(=O)(=O)C2=CC=C(C=C2)Cl)SC | C17H13ClN2O4S2
reactant | cyclobutylamine | 7.0 mmol, 0.6 ml | C1(CCC1)N | C4H9N
product | 3-(Benzo[1,3]dioxol-5-ylamino)-3-cyclobutylamino-2-(4-chlorophenylsulfonyl)-propenenitrile | 88 mg, 29% | O1COC2=C1C=CC(=C2)NC(=C(C#N)S(=O)(=O)C2=CC=C(C=C2)Cl)NC2CCC2 | C20H18ClN3O4S
